US05256780
To a solution of 2-(indol-2-yl)ethylamine (2.7 g) in acetic acid (25 ml) at 15° C. wa added sodium cyanoborohydride (2.22 g) in one portion. The solution was stirred at room temperature for 15 hours and diluted with chilled water. The mixture was made basic with sodium hydroxide pellets and extracted three times with ether. The ether layer was washed with brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo to give 2-(2,3-dihydroindol-2-yl)ethylamine (1.41 g) as an oil. The oil was dissolved in tetrahydrofuran (50 ml) and treated with 1,1'-carbonyldiimidazole (1.13 g) at room temperature. The mixture was stirred at room temperature for 30 minutes. The reaction mixture was washed with brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography (30%-ethyl acetate-chloroform) to give crystals. The crystals were washed with ether to give 3,4,4a,5-tetrahydropyrimido[1,6-a]indol-1(2H)-one (0.74 g).

reactant | 2-(indol-2-yl)ethylamine | 2.7 g | N1C(=CC2=CC=CC=C12)CCN | C10H12N2
reactant | sodium cyanoborohydride | 2.22 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-(2,3-dihydroindol-2-yl)ethylamine | 1.41 g | N1C(CC2=CC=CC=C12)CCN | C10H14N2
